US07592456B2
Step 3: (1S)-1-(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}phenyl)ethanol
A mixture of sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate (340 mg, 1.1 mmol), (1S)-1-(2-bromophenyl)ethanol (205 mg, 1.0 mmol) and copper(I) iodide (0.95 g, 4.99 mmol) in dimethyl sulfoxide (10 mL) was degassed and the flask placed in an oil bath at 110° C. The reaction mixture was stirred at this temperature for 2 hours. The cooled reaction mixture was poured into concentrated ammonia/water (1:1; 100 mL) and extracted with diethyl ether (4×50 mL). The extracts were washed with water then brine, combined, dried (MgSO4) and evaporated. The residue was purified by two flash columns, the first eluting with 5-10% diethyl ether/dichloromethane and the second eluting with 40-60% diethyl ether/isohexane, to give the title compound (120 mg, 29%). 1H NMR (500 MHz, CDCl3) δ 8.55 (1H, s), 8.17 (1H, d, J=8.0 Hz), 8.05 (1H, d, J=8.6 Hz), 8.02 (1H, s), 7.97 (1H, d, J=8.7 Hz), 7.84 (1H, dd, J=1.5, 8.5 Hz), 7.76 (2H, d, J=8.4 Hz), 7.69-7.63 (3H, m), 7.49 (1H, t, J=7.2 Hz), 7.19 (2H, t, 8.6 Hz), 5.68-5.62 (1H, m), 2.49 (1H, d, J=3.1 Hz), 1.35 (3H, d, J=6.3 Hz); m/z (ES+) 389 [(M-OH)+].

reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | 1.1 mmol, 340 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
reactant | (1S)-1-(2-bromophenyl)ethanol | 1.0 mmol, 205 mg | BrC1=C(C=CC=C1)[C@H](C)O | C8H9BrO
reactant | ammonia water | 100 mL | N.O
solvent | dimethyl sulfoxide | 10 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 4.99 mmol, 0.95 g | [Cu]I
product | (1S)-1-(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}phenyl)ethanol | 120 mg, 29% | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(C=CC=C1)[C@H](C)O | C24H19FO3S
